US04880775
A mixture of 4-(1,1-dimethylethyl)-2-(1-methylethyl)-5-methylphenol (103.2 g, 0.5 mol), 40% formaldehyde solution (375 mL, 5 mol), potassium hydroxide (49.5 g, 0.75 mol) and poly(ethylene glycol) avg. M.W. 300 (1 g) was heated at reflux for 24 hour. The mixture was cooled to 25° C. and water (1 L) and hexane (700 mL) were added. The aqueous layer was extracted with hexane (2×100 mL). The combined organic extracts were washed with water (3×100 mL), brine (2×100 mL) and dried (Na2SO4). Evaporation of solvents and crystallization of the residue from hexane gave 10.2 g (8.6% yield) of 5-(1,1-dimethylethyl)-6-methyl-3-(1-methylethyl)-2-hydroxy benzenemethanol, mp 143°-146° C.; 1H-NMR (CDCl3)δ 1.25 (6H, d, J=7 Hz), 1.40 (9H, s), 2.31 (3H, s), 3.0-3.6 (1H, m), 4.85 (2H, s), 7.01 (1H, s), 7.23 (1H, s); IR (CHCl3)νmax 3550, 3350, 2940, 1575, 1470, 1360 cm-1 ; M m/e 236, 218, 206, 203, 191, 161, UVλmax (ethanol) 224 nm (ε=6690), 287 nm (ε=2480).

reactant | 4-(1,1-dimethylethyl)-2-(1-methylethyl)-5-methylphenol | 0.5 mol, 103.2 g | CC(C)(C)C1=CC(=C(C=C1C)O)C(C)C | C14H22O
reactant | formaldehyde | 5 mol, 375 mL | C=O | CH2O
reactant | potassium hydroxide | 0.75 mol, 49.5 g | [OH-].[K+]
reactant | water | 1 L | O | H2O
solvent | hexane | 700 mL | CCCCCC | C6H14
product | 5-(1,1-dimethylethyl)-6-methyl-3-(1-methylethyl)-2-hydroxy benzenemethanol | 10.2 g, 8.6% yield | CC(C)(C)C=1C=C(C(=C(C1C)CO)O)C(C)C | C15H24O2
